US05726205
(1) trans-O-acetyl-4-(4-dipropylaminomethylphenyl)-cyclohexanol
from trans-O-acetyl-4-(4-chloromethylphenyl)-cyclohexanol and dipropylamine. Colourless oil.

reactant | trans-O-acetyl-4-(4-chloromethylphenyl)-cyclohexanol | C(C)(=O)O[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)CCl | C15H19ClO2
reactant | dipropylamine | C(CC)NCCC | C6H15N
product | trans-O-acetyl-4-(4-dipropylaminomethylphenyl)-cyclohexanol | C(C)(=O)O[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)CN(CCC)CCC | C21H33NO2
